US04659721
(a) Preparation of 2-Hydroxy-3-[3-(1-piperidylmethyl)phenyl]-butyronitrile
0.74 g (3.2 mmol) of 2-[3-(1-piperidylmethyl)phenyl]methyl-oxirane, 0.294 g (6 mmol) of sodium cyanide and 0.107 g (2 mmol) of ammonium chloride are boiled in 5 ml of ethanol/5 ml of water for 6 hours. After extensive concentration of the mother liquor by evaporation under vacuum, the residue is taken up with 10 ml of water, and the solution is adjusted to pH 12 with potassium carbonate and extracted with 3×20 ml of methylene chloride. After dehydration and concentration under vacuum, the organic phase yields 0.82 g of a brown oil.

reactant | 2-[3-(1-piperidylmethyl)phenyl]methyl-oxirane | 3.2 mmol, 0.74 g | N1(CCCCC1)CC=1C=C(C=CC1)CC1OC1 | C15H21NO
reactant | sodium cyanide | 6 mmol, 0.294 g | [C-]#N.[Na+]
reactant | ammonium chloride | 2 mmol, 0.107 g | [Cl-].[NH4+]
reactant | water | O | H2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 2-Hydroxy-3-[3-(1-piperidylmethyl)phenyl]-butyronitrile | 0.82 g | OC(C#N)C(C)C1=CC(=CC=C1)CN1CCCCC1 | C16H22N2O
